US04097472
To a solution of 2.00 g of N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-butylglycine tert-butyl ester in 20 ml of chloroform was added 50 ml of 15% HCl-ethyl acetate. The reaction mixture was stirred for 5 hours at room temperature. At the end of this period, the reaction mixture was evaporated to dryness. The residue was washed several times with dry diethyl ether and chromatographed on 80 ml of Daiaion® SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with water and eluted with 3% ammonium hydroxide solution. The fraction eluted from 3% ammonium hydroxide solution was evaporated to dryness to give 1.43 g (79 percent) of N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-butylglycine as an amorphous solid, I.R. (KBr): 3,360, 3,140, 1,622 cm-1.

reactant | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-butylglycine tert-butyl ester | 2.00 g | N#N.C(C)(C)(C)OC(CN(CCCC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O
reactant | HCl ethyl acetate | 50 ml | Cl.C(C)(=O)OCC
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-butylglycine | 1.43 g, 79 percent | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCCC | InChI=1S/C24H35N5O7S.N2/c1-4-5-11-29(15-22(30)31)23(32)19(7-6-10-27-24(25)26)28-37(33,34)18-9-8-16-13-20(35-2)21(36-3)14-17(16)12-18;1-2/h8-9,12-14,19,28H,4-7,10-11,15H2,1-3H3,(H,30,31)(H4,25,26,27);/t19-;/m0./s1
